US05358948
1-(2-Bromo-5-nitrophenyl)-4-methylpiperazine
A suspension of 2-bromo-5-nitrobenzenamine (26.0 g) and 2-chloro-N-(2-chloroethyl)-N-methylethanamine hydrochloride (23.0 g) in chlorobenzene (150 ml) was treated according to the method of Intermediate 56. Purification by FCC eluting with System A (300:8:1 gradient to 200:8:1) gave the title compound as a brown solid (9.498 g) m.p. 100°-103° C.

reactant | 2-bromo-5-nitrobenzenamine | 26.0 g | BrC1=C(C=C(C=C1)[N+](=O)[O-])N | C6H5BrN2O2
reactant | 2-chloro-N-(2-chloroethyl)-N-methylethanamine hydrochloride | 23.0 g | Cl.ClCCN(C)CCCl
solvent | chlorobenzene | 150 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 1-(2-Bromo-5-nitrophenyl)-4-methylpiperazine | 9.498 g | BrC1=C(C=C(C=C1)[N+](=O)[O-])N1CCN(CC1)C | C11H14BrN3O2
